US08314098B2
(Step 1): 5,7-Dichloro-3-phenyl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in tetrahydrofuran (4 mL), 3-amino-4-phenyl-pyrazole (208 mg, 1.31 mM), then malonyl chloride (153 μL, 1.57 mM) was added to the solution with ice-cooling and the mixture was stirred at room temperature for 30 minutes. To the reaction solution, there was added malonyl chloride (15 μL, 0.16 mM) and the mixture was further stirred at room temperature for 30 minutes. This reaction liquid was diluted with a 1M aqueous sodium hydroxide solution, washed with ethyl acetate, the aqueous phase was acidified (pH 2) by the addition of hydrochloric acid and then it was extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was then distilled off and the resulting solid was washed with diethyl ether. Phosphoryl chloride (4 mL) was added to the resulting solid with ice-cooling, and then the resulting suspension was stirred for 6 hours while refluxing the same with heating. The phosphoryl chloride was distilled off from the reaction liquid, ethanol was added to the resulting residue with ice-cooling and the mixture was stirred for 15 minutes. After the reaction liquid was concentrated, the concentrate was diluted with water and then extracted with methylene chloride. The extracts were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting residue was purified by the silica gel column chromatography (ethyl acetate/hexane=1:10) to thus give the title compound (47.7 mg, overall yield of these two steps: 14%).

reactant | 3-amino-4-phenyl-pyrazole | 1.31 mM, 208 mg | NC1=NNC=C1C1=CC=CC=C1 | C9H9N3
reactant | malonyl chloride | 1.57 mM, 153 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | malonyl chloride | 0.16 mM, 15 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 5,7-Dichloro-3-phenyl-pyrazolo[1,5-a]pyrimidine | ClC1=NC=2N(C(=C1)Cl)N=CC2C2=CC=CC=C2 | C12H7Cl2N3
